US05889013
Preparation of 1-[(benzyloxy)methyl]-5-isopropyl-6-[(3-methylphenyl) selenenyl]-2-thiouracil (Compound No. 27)
The titled compound was prepared in the same manner as described in Example 13 by using 1-[(benzyloxy)methyl]-5-isopropyl-2-thiouracil and bis(3-methylphenyl) diselenide in place of 1-(ethoxymethyl)-5-ethyl-2-thiouracil and diphenyl diselenide, respectively.

reactant | 1-[(benzyloxy)methyl]-5-isopropyl-2-thiouracil | C(C1=CC=CC=C1)OCN1C(=S)NC(=O)C(=C1)C(C)C | C15H18N2O2S
reactant | bis(3-methylphenyl) diselenide | CC=1C=C(C=CC1)[Se][Se]C1=CC(=CC=C1)C | C14H14Se2
reactant | diphenyl diselenide | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
product | 1-[(benzyloxy)methyl]-5-isopropyl-6-[(3-methylphenyl) selenenyl]-2-thiouracil | Yield: 51% | C(C1=CC=CC=C1)OCN1C(=S)NC(=O)C(=C1[Se]C1=CC(=CC=C1)C)C(C)C | C22H24N2O2SSe
